US08377980B2
10% Pd/C (69.3 mg, 0.065 mmol) was added to a solution of (S)-methyl 2-(benzyloxycarbonylamino)-2-((S)-tetrahydro-2H-pyran-3-yl)acetate (200 mg, 0.651 mmol) and dimethyl dicarbonate [4525-33-1] (0.104 mL, 0.976 mmol) in MeOH (10 mL). The reaction mixture was vacuum flushed with N2, followed by H2, and then the reaction was stirred under H2 (55 psi) at rt for 5 h. The reaction mixture was filtered through CELITE®/silica pad and the filtrate was concentrated to a colorless oil. The crude oil was purified by flash silica chromatography (loading solvent: DCM, eluted with 30% EtOAc in hexanes) to yield product (S)-methyl 2-(methoxycarbonylamino)-2-((S)-tetrahydro-2H-pyran-3-yl)acetate (132 mg) as colorless oil. LC-MS retention time 0.92 min; m/z 231.97 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® Luna 10u C18 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where Solvent A was 5% MeOH/95% H2O/10 mM ammonium acetate and Solvent B was 5% H2O/95% MeOH/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (400 MHz, chloroform-d) δ ppm 5.24 (d, J=8.5 Hz, 1H), 4.34 (dd, J=8.9, 5.6 Hz, 1H), 3.84-3.97 (m, 2H), 3.77 (s, 3H), 3.70 (s, 3H), 3.29-3.38 (m, 1H), 3.23 (dd, J=11.2, 10.4 Hz, 1H), 2.03-2.14 (m, 1H), 1.56-1.75 (m, 3H), 1.32-1.43 (m, 1H).

reactant | (S)-methyl 2-(benzyloxycarbonylamino)-2-((S)-tetrahydro-2H-pyran-3-yl)acetate | 0.651 mmol, 200 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC)[C@H]1COCCC1 | C16H21NO5
reactant | dimethyl dicarbonate | 0.976 mmol, 0.104 mL | C(=O)(OC)OC(=O)OC | C4H6O5
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 0.065 mmol, 69.3 mg | [Pd] | Pd
product | (S)-methyl 2-(methoxycarbonylamino)-2-((S)-tetrahydro-2H-pyran-3-yl)acetate | 132 mg | COC(=O)N[C@H](C(=O)OC)[C@H]1COCCC1 | C10H17NO5
